US05639752
R. 3-(2-Dimethylaminoethyl)-5-(3-methylsulfonylpyrid-2-ylamino)-1H-indole
5-Amino-3-(2-dimethylaminoethyl)-1H-indole and 2-chloro-3-methylsulfonylpyridine were used. 2,6-Lutidine was used as base, bromobenzene was used as solvent, and the reaction was heated at reflux for 3.5 hours. Column chromatography afforded the title compound (13%) as a yellow solid: top, 66.0°-68.0° C.; 1H NMR (CDCl3) δ8.46 (s, NH), 8.33 (dd, J=4.8 and 1.9 Hz, 1H), 8.33 (br s, NH), 8.06 (dd, J=7.8 and 1.9 Hz, 1H), 7.66 (d, J=1.8 Hz, 1H), 7.29 (d, J=8.5 Hz, 1), 7.20 (dd, J=8.6 and 2.0 Hz, 1H), 6.97 (d, J=2.2 Hz, 1H), 6.78 (dd, J=7.8 and 4.8 Hz, 1H), 3.15 (s, 3H), 2.94-2.88 (m, 2H), 2.68-2.60 (m, 2H), 2.34 (s, 6H); HRMS calculated for C18H22N4O2S 358.1459, found 358.1490.

reactant | 5-Amino-3-(2-dimethylaminoethyl)-1H-indole | NC=1C=C2C(=CNC2=CC1)CCN(C)C | C12H17N3
reactant | 2-chloro-3-methylsulfonylpyridine | ClC1=NC=CC=C1S(=O)(=O)C | C6H6ClNO2S
reactant | 2,6-Lutidine | N1=C(C=CC=C1C)C | C7H9N
solvent | bromobenzene | BrC1=CC=CC=C1 | C6H5Br
product | 3-(2-Dimethylaminoethyl)-5-(3-methylsulfonylpyrid-2-ylamino)-1H-indole | 13% | CN(CCC1=CNC2=CC=C(C=C12)NC1=NC=CC=C1S(=O)(=O)C)C | C18H22N4O2S
